US09399640B2
Step 4. 5-Bromo-1-methyl-1H-indazol-4-ol
A solution of 5-bromo-4-methoxy-1-methyl-1H-indazole (86.1 mg, 0.357 mmol) in methylene chloride (1.74 mL) was treated with boron tribromide (0.0405 mL, 0.428 mmol) at 0° C. The reaction mixture was warmed to RT and stirred at RT for 16 h, after which time the reaction mixture was cooled to 0° C., treated with additional boron tribromide (0.0405 mL, 0.428 mmol), warmed to RT and stirred at RT for 1.5 h. The reaction mixture was cooled to 0° C., treated with more boron tribromide (0.0405 mL, 0.428 mmol), and stirred for 2 h. The reaction mixture was then cooled to 0° C. and quenched carefully with saturated sodium bicarbonate (30 mL) and extracted with dichloromethane (2×30 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to yield a crude mixture. This mixture was re-subjected to the initial reaction conditions. The crude mixture was suspended in 1,2-dichloroethane (1.74 mL), cooled to 0° C., treated with boron tribromide (0.0810 mL, 0.857 mmol), warmed to RT and stirred at RT for 2 h. The reaction mixture was cooled to 0° C. and quenched carefully with saturated solution of sodium bicarbonate (30 mL) and extracted with dichloromethane (2×30 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to give the crude product. This material was diluted with methanol (2.0 mL), treated with ammonium hydroxide (0.278 mL, 7.14 mmol), and stirred for 15 min. The resultant suspension was diluted with saturated ammonium chloride (30 mL) and extracted with dichloromethane (2×30 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated to give the desired product (73 mg, 90%) as a yellow solid. LCMS calculated for C8H8BrN2O (M+H)+: m/z=227.0, 229.0. found: 226.9, 228.9.

reactant | 5-bromo-4-methoxy-1-methyl-1H-indazole | 0.357 mmol, 86.1 mg | BrC=1C(=C2C=NN(C2=CC1)C)OC | C9H9BrN2O
reactant | boron tribromide | 0.428 mmol, 0.0405 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.428 mmol, 0.0405 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.428 mmol, 0.0405 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.857 mmol, 0.0810 mL | B(Br)(Br)Br | BBr3
reactant | ammonium hydroxide | 7.14 mmol, 0.278 mL | [OH-].[NH4+]
solvent | methylene chloride | 1.74 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 1.74 mL | ClCCCl | C2H4Cl2
solvent | methanol | 2.0 mL | CO | CH4O
solvent | ammonium chloride | 30 mL | [Cl-].[NH4+]
product | 5-Bromo-1-methyl-1H-indazol-4-ol | 73 mg, 90% | BrC1=C(C=2C=NN(C2C=C1)C)O | C8H7BrN2O
